US07534801B2
Preparation of N-(4-Oxo-3,4-dihydro-2H-chromen-6-yl)benzenesulfonamide
A solution of 6-amino-2,3-dihydro-4H-chromen-4-one (330 mg, 2.02 mmol) in CH2Cl2 is treated with pyridine (1 mL) and benzenesulfonyl chloride (0.28 mL, 2.2 mmol), stirred at ambient temperature for 1 hour, poured into dilute hydrochloric acid and extracted with ethyl acetate. The organic phase is washed sequentially with dilute hydrochloric acid until the pH of the wash is <2 and a saturated solution of sodium bicarbonate, dried over MgSO4 and concentrated in vacuo to afford the title compound as a beige solid, 460 mg (74% yield), identified by NMR and mass spectral analyses.

reactant | 6-amino-2,3-dihydro-4H-chromen-4-one | 2.02 mmol, 330 mg | NC=1C=C2C(CCOC2=CC1)=O | C9H9NO2
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | 2.2 mmol, 0.28 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(4-Oxo-3,4-dihydro-2H-chromen-6-yl)benzenesulfonamide | 74% yield | O=C1CCOC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1 | C15H13NO4S
